US08350038B2
2-(1-Ethyl-4-Hydroxybutyl)-1,4-Benzoquinone: Precursor for TWDQ 10 and TWDQ 8
While stirring at 60° C., a solution of sodium peroxodisulfate (0.01 mol) in water (10 ml) was added to a heterogeneous mixture of silver nitrate (0.2 g) in water (40 ml) and 1,4-benzoquinone (0.01 mol) and 1-hexanol (0.04 mol) in hexane (5 ml). Extraction with diethyl ether followed by vaporization in vacuo yielded a residue which was purified using column chromatography on silica gel (eluting with hexane/diethylether).

reactant | sodium peroxodisulfate | 0.01 mol | [O-]S(=O)(=O)OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | 1,4-benzoquinone | 0.01 mol | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 1-hexanol | 0.04 mol | C(CCCCC)O | C6H14O
solvent | water | 10 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | hexane | 5 ml | CCCCCC | C6H14
catalyst | silver nitrate | 0.2 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-(1-Ethyl-4-Hydroxybutyl)-1,4-Benzoquinone | C(C)C(CCCO)C=1C(C=CC(C1)=O)=O | C12H16O3
